US07645789B2
To a solution of methyl 1-(3-methylbenzo[d]isoxazol-5-yl)cyclopropanecarboxylate (1.5 g, 6.5 mmol) in MeOH (20 mL) and water (2 mL) was added LiOH.H2O (0.80 g, 19 mmol) in portions at room temperature. The reaction mixture was stirred at room temperature overnight before the MeOH was removed by evaporation under vacuum. Water and Et2O were added and the aqueous layer was separated, acidified with HCl and extracted with EtOAc (50 mL×3). The combined organic extracts were dried over anhydrous Na2SO4 and evaporated under vacuum to give 1-(3-methylbenzo[d]isoxazol-5-yl)cyclopropanecarboxylic acid (455 mg, 32%). 1H NMR (400 MHz, DMSO) δ 12.40 (br s, 1H), 7.76 (s, 1H), 7.60-7.57 (m, 2H), 2.63 (s, 3H), 1.52-1.48 (m, 2H), 1.23-1.19 (m, 2H). MS (ESI) m/z (M+H+) 218.1.

reactant | methyl 1-(3-methylbenzo[d]isoxazol-5-yl)cyclopropanecarboxylate | 6.5 mmol, 1.5 g | CC1=NOC2=C1C=C(C=C2)C2(CC2)C(=O)OC | C13H13NO3
reactant | LiOH.H2O | 19 mmol, 0.80 g | O[Li].O
solvent | MeOH | 20 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 1-(3-methylbenzo[d]isoxazol-5-yl)cyclopropanecarboxylic acid | 455 mg, 32% | CC1=NOC2=C1C=C(C=C2)C2(CC2)C(=O)O | C12H11NO3
